US07179830B2
a) N-(3-Amino-4-thienyl)-N′-(2,6-dimethylphenyl)thiourea
was obtained in a similar manner to the method specified in Example 6a) by reacting a mixture prepared from 0.74 g of N-ethyl-N,N-diisopropylamine in 40 ml of THF, 0.8 g of 3,4-diaminothiophene dihydrobromide and 0.47 g of 2,6-dimethylphenyl isothiocyanate.

reactant | N-ethyl-N,N-diisopropylamine | 0.74 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3,4-diaminothiophene dihydrobromide | 0.8 g | Br.Br.NC1=CSC=C1N
reactant | 2,6-dimethylphenyl isothiocyanate | 0.47 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | N-(3-Amino-4-thienyl)-N′-(2,6-dimethylphenyl)thiourea | NC1=CSC=C1NC(=S)NC1=C(C=CC=C1C)C | C13H15N3S2
